US06649600B1
3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]oct-1-yl]-propionic acid
A solution of 3-[5-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[3.2.1]oct-1-yl]-propionic acid methyl ester (0.456 mmol, 0.196 g) in THF (10 ml) was treated with 20% NaOH (2 ml) and stirred overnight at RT. The reaction was concentrated to remove the THF. The aqueous residue was acidified (pH 2-3) with conc. HCl and iPrOH was added to homogeneity. The solution was concentrated on the rotovap until solids just began to separate. After chilling in ice 1 h, the precipitated solids were collected by vacuum filtration, rinsed with a little H2O and chased with Et2O. The solids were dried on the filter to provide the desired product (0.061 g, 32%). 13C NMR (100 MHz, CDCl3): 11.11 (q), 11.26 (q), 20.04 (t), 21.25 (t), 21.31 (t), 29.51 (s), 33.97 (t), 35.15 (s), 36.16 (t), 36.39 (t), 43.32 (t), 43.41 (t), 45.38 (t), 49.18 (t), 106.01 (s), 149.40 (s), 150.90 (s), 156.30 (s), 161.56 (s), 178.54 (s).

reactant | 3-[5-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[3.2.1]oct-1-yl]-propionic acid methyl ester | 0.456 mmol, 0.196 g | COC(CCC12CCCC(CC1)(C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)=O | C23H34N4O4
reactant | NaOH | 2 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.2.1]oct-1-yl]-propionic acid | 0.061 g, 32% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CC1)(C2)CCC(=O)O)=O)CCC | C22H32N4O4
